US07825119B2
Synthesis of tert-butyl 3-[5-ethyl-6-[4-(5,6,7,8-tetrahydro-(1,8)naphthyridin-2-yl)-piperidin-1-yl]-pyrimidin-4-ylamino]-2-[3-(2-nitrophenyl)ureido]-propionate
A mixture of 240 mg (0.50 mmole) of tert-butyl 2-amino-3-{5-ethyl-6-[4-(5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yl)-piperidin-1-yl]-pyrimidin-4-ylamino}-propionate and 82 mg (0.50 mmole) of 2-nitrophenylisocynate in 15 ml of tetrahydrofuran is stirred for 3 hours at ambient temperature. The reaction mixture is evaporated to dryness under reduced pressure (2 kPa) and the residue is taken up in ethyl acetate and water. The organic phase is separated, dried over magnesium sulphate and the solvent evaporated off under reduced pressure (2 kPa). The residue is chromatographed on alumina eluting with a gradient of ethyl acetate-methylene chloride-methanol from 50-50-0 to 50-50-10. 260 mg of expected product is obtained in the form of a yellow solid.

reactant | tert-butyl 2-amino-3-{5-ethyl-6-[4-(5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yl)-piperidin-1-yl]-pyrimidin-4-ylamino}-propionate | 0.50 mmole, 240 mg | NC(C(=O)OC(C)(C)C)CNC1=NC=NC(=C1CC)N1CCC(CC1)C1=NC=2NCCCC2C=C1 | C26H39N7O2
reactant | 2-nitrophenylisocynate | 0.50 mmole, 82 mg | [N+](=O)([O-])C1=C(C=CC=C1)N=C=O | C7H4N2O3
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | tert-butyl 3-[5-ethyl-6-[4-(5,6,7,8-tetrahydro-(1,8)naphthyridin-2-yl)-piperidin-1-yl]-pyrimidin-4-ylamino]-2-[3-(2-nitrophenyl)ureido]-propionate | 260 mg | C(C)C=1C(=NC=NC1N1CCC(CC1)C1=NC=2NCCCC2C=C1)NCC(C(=O)OC(C)(C)C)NC(=O)NC1=C(C=CC=C1)[N+](=O)[O-] | C33H43N9O5
